US04112224
A solution of 6.7 g. of the reaction product of part A, 15.5 g. of triphenylphosphine and 7.2 g. of benzoic acid in 200 ml. of dry tetrahydrofuran is cooled to 0° C. under a nitrogen atmosphere. Thereupon, 10.2 g. of diethyl azodicarboxylate in 10 ml. of tetrahydrofuran is added over one min. to the above solution (rapidly stirred). After about 10 min. the reaction is substantially complete, however, after an additional 45 min., the reaction being complete, the mixture is poured into 400 ml. of ethyl acetate and hexane (1:1). The mixture is then washed with 150 ml. of saturated sodium bicarbonate and brine, washed with brine, dried over sodium sulfate, and concentrated to a solid mass. This solid mass is then suspended in 15 percent ethyl acetate and hexane and 18 g. of triphenylphosphine oxide is precipitated and removed by filtration. The remaining oil is then chromatographed on 2 kg. of silica gel, packed with ethyl acetate and Skellysolve B, and eluted with various mixtures of ethyl acetate and Skellysolve B, yielding a dibenzoate, tetrahydropyranyl ether as in formula LXIII of Chart D.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
